US08003649B2
tert-Butyl methyl[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]carbamate (1.5 g, 3.75 mmol) was dissolved in TFA (5 mL) and DCM (5 mL). The resulting solution was stirred at ambient temperature for 2 hours. The crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 2M ammonia in methanol and pure fractions were evaporated to dryness to afford N-methyl-1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-amine (1.090 g, 97%) as a solid.

reactant | tert-Butyl methyl[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]carbamate | 3.75 mmol, 1.5 g | CN(C(OC(C)(C)C)=O)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C17H23F3N6O2
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-methyl-1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-amine | 1.090 g, 97% | CNC1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C12H15F3N6
